US04188396
30 g of N-benzyl-4-hydroxy-4-(4-methylphenyl)-piperidine in a mixture of equal parts of ethyl acetate and ethanol with palladium (5% on charcoal) is hydrogenated until one equivalent of hydrogen has been absorbed to give 4-hydroxy-4-(4-methylphenyl)-piperidine, m.p. 137°-138° (from ethyl acetate).

reactant | N-benzyl-4-hydroxy-4-(4-methylphenyl)-piperidine | 30 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=C(C=C1)C)O | C19H23NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-hydroxy-4-(4-methylphenyl)-piperidine | OC1(CCNCC1)C1=CC=C(C=C1)C | C12H17NO
